US04297499
Dichlorosilane in an amount of 83.5 g (0.827 mol), 82.3 g of cyclohexene (1.00 mol), 0.05 mol % of chloroplatinic acid (relative to dichlorosilane) were charged in a 500 ml pressure-proof stainless steel reactor and after sealing, reaction was carried out by heating in an oil bath at 100° C. for 30 hours. After reaction, the seal of the reactor was broken and the reacted liquid was discharged and subjected to vacuum distillation to obtain 139.3 g (0.761 mol) of cyclohexyldichlorosilane having a boiling point of 110°~112° C./155 mmHg.

reactant | Dichlorosilane | Cl[SiH2]Cl | Cl2H2Si
reactant | cyclohexene | 1.00 mol, 82.3 g | C1=CCCCC1 | C6H10
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | cyclohexyldichlorosilane | 0.761 mol, 139.3 g | C1(CCCCC1)[SiH](Cl)Cl | C6H12Cl2Si
